US07888366B2
Grignard reaction of benzaldehyde (300.0 mg; 2.83 mmol) with phenylmagnesium bromide in anhydrous ether afforded 0.5 grams of diphenylmethanol.

reactant | benzaldehyde | 2.83 mmol, 300.0 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | ether | CCOCC | C4H10O
product | diphenylmethanol | 0.5 grams | C1(=CC=CC=C1)C(O)C1=CC=CC=C1 | C13H12O
